US06809097B1
A mixture of 7-methoxy-6-methoxycarbonyl-1,4-dihydroquinolin-4-one (5.4 g, 23 mmol), DMF (0.4 ml) and thionyl chloride (75 ml) was heated at reflux for 2 hours and then stirred at ambient temperature for a further 2 hours. The excess thionyl chloride was removed by evaporation and by azeotroping with toluene. The residue was suspended in methylene chloride and washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, dried by passing through phase separating paper and the solvent was removed by evaporation. The residue was suspended in ether, collected by filtration, washed with hexane and dried to give 4-chloro-7-methoxy-6-methoxycarbonylquinoline (4.06 g, 70%) as an orange solid.

reactant | 7-methoxy-6-methoxycarbonyl-1,4-dihydroquinolin-4-one | 23 mmol, 5.4 g | COC1=C(C=C2C(C=CNC2=C1)=O)C(=O)OC | C12H11NO4
reactant | thionyl chloride | 75 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
product | 4-chloro-7-methoxy-6-methoxycarbonylquinoline | 4.06 g, 70% | ClC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OC | C12H10ClNO3
